US08207205B2
3-(3,5-Dibromo-4-hydroxyphenyl)-N-(3-(trifluoromethoxy)phenyl)-1,2,4-oxadiazole-5-carboxamide (compound 24) (Method 2)
Trimethylaluminum (0.075 mL of a 2 M solution in hexane, 0.15 mmol) was added to a stirred solution of 3-(trifluoromethoxy)aniline (26 mg, 0.15 mmol) in dry toluene (1 mL) under nitrogen. After stirring at room temperature for 1 hour, ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate (58 mg, 0.15 mmol) was added in one portion and the mixture was stirred at room temperature for three days. Water (1 mL) was added and the mixture was extracted with ethyl acetate (3 mL). The organic phase was evaporated in vacuo to give a colourless oil which was purified by preparative HPLC to give the title compound (23 mg, 31%) as a colourless powder. 1H NMR δ (ppm) (DMSO-d6): 7.22 (1H, d), 7.69 (1H, t), 7.91 (1H, d), 7.98 (1H, s), 10.96 (1H, s, br), 11.97 (1H, s). LCMS (10 cm_apci_formic) tR 4.37 min; m/z 520/522/524 [M−H]−.

reactant | Trimethylaluminum | C[Al](C)C
reactant | 3-(trifluoromethoxy)aniline | 0.15 mmol, 26 mg | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate | 0.15 mmol, 58 mg | BrC=1C=C(C=C(C1O)Br)C1=NOC(=N1)C(=O)OCC | C11H8Br2N2O4
reactant | Water | 1 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3,5-Dibromo-4-hydroxyphenyl)-N-(3-(trifluoromethoxy)phenyl)-1,2,4-oxadiazole-5-carboxamide | 23 mg, 31% | BrC=1C=C(C=C(C1O)Br)C1=NOC(=N1)C(=O)NC1=CC(=CC=C1)OC(F)(F)F | C16H8Br2F3N3O4
